US08076329B2
To a solution of 1-[3-(4-hydroxymethylphenoxy)propyl]piperidine (5.617 g) in dichloromethane (50 mL), cooled at a temperature close to 0° C., is added dropwise thionyl chloride (3 mL). The mixture is stirred for 18 hours at room temperature and concentrated under reduced pressure. The residue is crystallized in diethyl ether to give 1-[3-(4-chloromethylphenoxy)propyl]piperidine as an off white solid used without further purification.

reactant | 1-[3-(4-hydroxymethylphenoxy)propyl]piperidine | 5.617 g | OCC1=CC=C(OCCCN2CCCCC2)C=C1 | C15H23NO2
reactant | thionyl chloride | 3 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-[3-(4-chloromethylphenoxy)propyl]piperidine | ClCC1=CC=C(OCCCN2CCCCC2)C=C1 | C15H22ClNO
